US04465677
A mixture of 125 g. (0.73 mol) of O-chlorophenylacetic acid, 155 g. (1.3 mol) of thionyl chloride and 2-3 drops of dimethylformamide in 1500 ml. of toluene was stirred at room temperature for three hours. The toluene was evaporated under reduced pressure to give an oil which was dissolved in 200 ml. of methylenechloride. This was added dropwise to a solution of 165 g. (2.2 mol) of N-methylamino ethanol in 1 liter of methylene chloride. After addition was complete, the solution was stirred at room temperature for three hours. The organic solution was washed with water, dilute hydrochloric acid and saturated sodium chloride, dried over magnesium sulfate, filtered and evaporated to give 2-chloro-N-(2-hydroxyethyl)-N-methylbenzeneacetamide as a crystalline solid, m.p. 77°.

reactant | O-chlorophenylacetic acid | 0.73 mol | ClOC(CC1=CC=CC=C1)=O | C8H7ClO2
reactant | thionyl chloride | 1.3 mol | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | N-methylamino ethanol | 2.2 mol | CNC(C)O | C3H9NO
catalyst | dimethylformamide | 2-3 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2-hydroxyethyl)-N-methylbenzeneacetamide | ClC1=C(C=CC=C1)CC(=O)N(C)CCO | C11H14ClNO2
